* C:\users\anton\Documents\tste96\555_astabil_1.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 0 N001 N003 VCC N004 N001 N002 VCC NE555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
V1 VCC 0 5
C1 N004 0 10n
C2 N001 0 10n
R1 N001 N002 1.3k
R2 VCC N002 1.2k
R3 N003 N005 220
D1 N005 0 D
.model D D
.lib C:\users\anton\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0.5m uic
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\anton\AppData\Local\LTspice\lib\sym\Misc\NE555.asy)
.lib NE555.sub
.backanno
.end
